US06414144B1
A. 1,2,3,4-Tetrahydrocyclopenta[b]Indole-5-Carboxylic Acid
To a stirred solution of 2-hydrazinobenzoic acid hydrochloride (53 mmol, 10.0 g) and cyclopentanone (58 mmol, 4.9 g) in 1,4-dioxane (100 mL) was added dropwise concentrated H2SO4 (˜18M, 63 mmol, 3.5 mL). The resulting solution was heated to reflux for 2 hours. 1H NMR analysis of a crude aliquot indicated complete reaction. The reaction was allowed to cool to room temperature and then concentrated to dryness to give a red solid which was used without further purification.

reactant | 2-hydrazinobenzoic acid hydrochloride | 53 mmol, 10.0 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | cyclopentanone | 58 mmol, 4.9 g | C1(CCCC1)=O | C5H8O
reactant | H2SO4 | 63 mmol, ˜18M, 3.5 mL | OS(=O)(=O)O | H2O4S
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 1,2,3,4-Tetrahydrocyclopenta[b]Indole-5-Carboxylic Acid | C1CCC=2NC3=C(C=CC=C3C21)C(=O)O | C12H11NO2
